US08604022B2
4-(4-Cyclobutylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide
4-(4-cyclobutylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide was prepared as for Example 94, but starting from ethyl 4-(4-cyclobutylpiperazin-1-yl)benzoate (202 mg, 0.7 mmol), tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (292 mg, 0.84 mmol) and 1M NaHMDS (1.23 ml, 1.23 mmol) in THF (5 ml). The crude product was purified by reverse phase prep. HPLC (basic) using a 39-59% gradient of acetonitrile in water containing 1% 0.880 ammonia. The clean fractions were combined and evaporated to afford the title compound (21 mg, 6%); 1H NMR (399.9 MHz, DMSO-d6) δ 1.61-1.71 (2H, m), 1.81-1.86 (2H, m), 1.99-2.02 (2H, m), 2.38 (4H, t), 2.75 (1H, s), 2.85-2.87 (4H, m), 3.26-3.27 (4H, m), 3.72 (6H, d), 6.33 (1H, t), 6.42-6.43 (2H, m), 6.45 (1H, s), 6.95 (2H, d), 7.90 (2H, d), 10.29 (1H, s), 12.07 (1H, s). MS=m/z 490 (MH+).

reactant | ethyl 4-(4-cyclobutylpiperazin-1-yl)benzoate | 0.7 mmol, 202 mg | C1(CCC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C17H24N2O2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.84 mmol, 292 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1.23 mmol, 1M, 1.23 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-Cyclobutylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide | 21 mg, 6% | C1(CCC1)N1CCN(CC1)C1=CC=C(C(=O)NC2=NNC(=C2)CCC2=CC(=CC(=C2)OC)OC)C=C1 | C28H35N5O3
